US06436964B1
Diisopropylamine (25.2 mL, 0.18 mol) in anhydrous THF (500 mL) was cooled to 0° C. and n-butyllithium (112.5 mL of a 1.6 M solution in THF, 0.18 mol) was added dropwise over 20 minutes to the cooled solution. The reaction mixture was stirred for an additional 15 minutes at 0° C. and then tri-n-butyltinhydride (48.4 mL, 0.18 mol) was added dropwise over 30 minutes. The reaction mixture was then stirred for one hour and then cooled to −78° C. N-(t-butoxycarbonyl)-4-piperidone (30.0 g, 0.15 mol) in THF (500 mL) was then added dropwise to the cooled solution over one hour. After addition was complete, the reaction was stirred for 2 hours at −78° C. and then quenched with buffer (pH 6). The mixture was extracted with ethyl acetate, the organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was purified by flash chromatography (5% ethyl acetate/hexane to provide 1-(t-butoxycarbonyl)-4-hydroxy4-tributylstannyl piperidine (36.06g).

reactant | Diisopropylamine | 0.18 mol, 25.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tri-n-butyltinhydride | 0.18 mol, 48.4 mL | C(CCC)[SnH](CCCC)CCCC
reactant | N-(t-butoxycarbonyl)-4-piperidone | 0.15 mol, 30.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-(t-butoxycarbonyl)-4-hydroxy4-tributylstannyl piperidine | 36.06g | C(C)(C)(C)OC(=O)N1CCC(CC1)([Sn](CCCC)(CCCC)CCCC)O | InChI=1S/C10H18NO3.3C4H9.Sn/c1-10(2,3)14-9(13)11-6-4-8(12)5-7-11;3*1-3-4-2;/h12H,4-7H2,1-3H3;3*1,3-4H2,2H3;
